US08372842B2
TiCl4 (1.9 mL, 1.9 mmol) as a 1M DCM solution was added to a solution of dimethyl malonate (0.195 mL, 1.70 mmol) in DCM (10 mL) at 0° C. under N2, and the reaction was stirred for 10 minutes. DIEA (0.3 mL, 1.7 mmol) was then added slowly, and the reaction was stirred for an additional 30 minutes at 0° C. A DCM (2 mL) solution of tert-butyl 5-methoxy-2,2-dimethylpyrrolidine-1-carboxylate (325 mg, 1.4 mmol) was then slowly added dropwise, and the reaction was stirred at 0° C. for 10 minutes. Saturated NH4Cl was then added, and then reaction was diluted with DCM and washed with saturated NaHCO3. The organic fractions were then dried, filtered, and concentrated to give the crude product, which was purified by column chromatography (500:50-500:90 hexanes:EtOAc) to give dimethyl 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)malonate (0.35 g, 75%).

reactant | dimethyl malonate | 1.70 mmol, 0.195 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | DIEA | 1.7 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 5-methoxy-2,2-dimethylpyrrolidine-1-carboxylate | 1.4 mmol, 325 mg | COC1CCC(N1C(=O)OC(C)(C)C)(C)C | C12H23NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.9 mmol, 1.9 mL | Cl[Ti](Cl)(Cl)Cl
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1M | C(Cl)Cl | CH2Cl2
product | dimethyl 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)malonate | 0.35 g, 75% | C(C)(C)(C)OC(=O)N1C(CCC1(C)C)C(C(=O)OC)C(=O)OC | C16H27NO6
